US04705790
Preparation of N-(3'-Chloro-2',6'-dinitro-4'-trifluoromethylphenyl)-4-amino-6-chloro-2-methylmercaptopyrimidine
7.9 parts of finely powdered 85% potassium hydroxide are dissolved in 70 ml of dimethylsulfoxide. To this solution is added dropwise a solution of 17.6 parts of 4-amino-6-chloro-2-methylmercaptopyrimidine in 80 ml of dimethylsulfoxide at about 15° C., and the reaction mixture is subsequently stirred for half an hour at room temperature. Then 30.5 parts of 1,3-dichloro-2,6-dinitro-4-trifluoromethylbenzene in 100 ml of dimethylsulfoxide are added dropwise at about 115° C. The reaction mixture is stirred overnight at room temperature, then poured into 2 liters of ice-water and extracted with ethyl acetate. The combined extracts are washed repeatedly with water, dried over sodium sulfate, filtered and concentrated. The crude product is purified by column chromatography over silica gel with dichloromethane as eluant. Yield: 22.3 parts of the title compound with a melting point of 171°-175° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-amino-6-chloro-2-methylmercaptopyrimidine | NC1=NC(=NC(=C1)Cl)SC | C5H6ClN3S
reactant | 1,3-dichloro-2,6-dinitro-4-trifluoromethylbenzene | ClC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C7HCl2F3N2O4
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | N-(3'-Chloro-2',6'-dinitro-4'-trifluoromethylphenyl)-4-amino-6-chloro-2-methylmercaptopyrimidine | ClC=1C(=C(C(=CC1C(F)(F)F)[N+](=O)[O-])N1C(N=C(C=C1Cl)N)SC)[N+](=O)[O-] | C12H8Cl2F3N5O4S
